US06130338
To a solution of 15.9 g (0.1 mol) of 1-benzyl-3-pyrroline, 12.0 g (0.12 mol) of 98% sulfuric acid, 15.0 g of water, and 60.0 g of acetone in a quartz round flask reactor, 45.6 g (0.20 mol) of (NH4)2S2O8 (ammonium peroxydisulfate produced by Mitsubishi Gas Chemical Industry Co., Ltd.) was added with stirring and allowed to react for 5 days at room temperature with irradiation by 500 W Xe lamps (UXL-500D xenon lamp produced by Ushio). 21.9 g (0.3 mol) of diethylamine (produced by Katayama Chemical Industry Co., Ltd.) was continuously added to the reaction mixture and stirred for 5 hours under reflux. After completion, acetone and excess diethylamine were evaporated under reduced pressure, and extracted with toluene and water. After the solvent was evaporated under reduced pressure, 18.4 g of 1-benzyl-4-diethylamino-3-pyrrolidinol (yield 73.9%) was obtained.

reactant | 1-benzyl-3-pyrroline | 0.1 mol, 15.9 g | C(C1=CC=CC=C1)N1CC=CC1 | C11H13N
reactant | sulfuric acid | 0.12 mol, 12.0 g | S(O)(O)(=O)=O | H2O4S
reactant | water | 15.0 g | O | H2O
reactant | diethylamine | 0.3 mol, 21.9 g | C(C)NCC | C4H11N
solvent | acetone | 60.0 g | CC(=O)C | C3H6O
product | 1-benzyl-4-diethylamino-3-pyrrolidinol | 18.4 g, yield 73.9% | C(C1=CC=CC=C1)N1CC(C(C1)N(CC)CC)O | C15H24N2O
